US05607928
To a solution of 4-hydroxy-1-indanone (1 g; 6.7 mmol) in THF were added, at ambient temperature and under argon, powdered 1,3,5-trioxane (1.2 g; 13.4 mmol) and N-methyl-N-phenylammonium trifluoroacetate (2.9 g; 13.4 mmol). The suspension was refluxed for 4 hours. Ether was added to the mixture and the resulting precipitate was filtered off. The organic phase was washed with water, dried over MgSO4, filtered and evaporated. The residue obtained was purified by flash chromatography on silica gel, eluting with petroleum ether/ethyl acetate (8/2) to give 4-hydroxy-2-methylene-1-indanone as a beige solid (0.76 g; 70%).

reactant | 4-hydroxy-1-indanone | 6.7 mmol, 1 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | 1,3,5-trioxane | 13.4 mmol, 1.2 g | O1COCOC1 | C3H6O3
reactant | N-methyl-N-phenylammonium trifluoroacetate | 13.4 mmol, 2.9 g | FC(C(=O)[O-])(F)F.C[NH2+]C1=CC=CC=C1
reactant | Ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 4-hydroxy-2-methylene-1-indanone | OC1=C2CC(C(C2=CC=C1)=O)=C | C10H8O2
